US05306816
To a mixture of (3S,4S)-3-[(1R)-1-(tertbutyldimethylsilyloxy)ethyl] -4-[(1R)-1-{(phenylthio)thiocarbonyl}ethyl]-2-oxoazetidine (5.12 g) in dichloromethane (50 ml) were added pyridine (1.8 ml) and allyl chloroglyoxylate (2.3 ml) successively at 0° C. After stirring for 2 hours at the same temperature, to the solution were added pyridine (0.9 ml) and allyl chloroglyoxylate (0.75 ml). After stirring for 1 hour at 0° C., the solution was washed with water, 1N hydrochloric acid and brine, and dried. The solvent was removed under reduced pressure and the residue was purified by column chromatography (ethyl acetate:hexane=1:9) to afford (3S,4S)-1-(allyloxyoxalyl)-3-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[(1R)-1-{(phenylthio)thiocarbonyl}ethyl]-2-oxoazetidine (4.77 g).

reactant | (3S,4S)-3-[(1R)-1-(tertbutyldimethylsilyloxy)ethyl] -4-[(1R)-1-{(phenylthio)thiocarbonyl}ethyl]-2-oxoazetidine | 5.12 g | C(C)(C)(C)[Si](O[C@H](C)[C@H]1C(N[C@@H]1[C@@H](C)C(=S)SC1=CC=CC=C1)=O)(C)C | C20H31NO2S2Si
reactant | pyridine | 1.8 ml | N1=CC=CC=C1 | C5H5N
reactant | allyl chloroglyoxylate | 2.3 ml | ClC(C(=O)OCC=C)=O | C5H5ClO3
reactant | pyridine | 0.9 ml | N1=CC=CC=C1 | C5H5N
reactant | allyl chloroglyoxylate | 0.75 ml | ClC(C(=O)OCC=C)=O | C5H5ClO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (3S,4S)-1-(allyloxyoxalyl)-3-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[(1R)-1-{(phenylthio)thiocarbonyl}ethyl]-2-oxoazetidine | 4.77 g | C(C=C)OC(C(=O)N1C([C@@H]([C@H]1[C@@H](C)C(=S)SC1=CC=CC=C1)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)=O | C25H35NO5S2Si
